US07943669B2
Step A: {2-Methyl-4-[3-(3-morpholin-4-yl-propoxy)-5-(3-phenyl-prop-1-ynyl)-phenylsulfanyl]-phenoxy}-acetic Acid Ethyl Ester
{4-[3-Hydroxy-5-(3-phenyl-prop-1-ynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester (200 mg; 0.46 mmol), 3-morpholin-4-yl-propan-1-ol (101 mg; 0.69 mmol), tributylphosphine (0.28 mL; 1.39 mmol) and 1,1′-(azodicarbonyl)dipiperidine (0.35 g; 1.39 mmol) were dissolved in THF (15 mL) in a dried reaction flask under an atmosphere of nitrogen. After stirring for 1 h the reaction mixture was purified by prep. HPLC (method A). Yield: 200 mg. HPLC-MS: m/z: 560.5 (M+H); Rt: 2.07 min.

reactant | {4-[3-Hydroxy-5-(3-phenyl-prop-1-ynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester | 0.46 mmol, 200 mg | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CCC1=CC=CC=C1)O)C)=O | C26H24O4S
reactant | 3-morpholin-4-yl-propan-1-ol | 0.69 mmol, 101 mg | N1(CCOCC1)CCCO | C7H15NO2
reactant | tributylphosphine | 1.39 mmol, 0.28 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 1.39 mmol, 0.35 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | {2-Methyl-4-[3-(3-morpholin-4-yl-propoxy)-5-(3-phenyl-prop-1-ynyl)-phenylsulfanyl]-phenoxy}-acetic Acid Ethyl Ester | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CCC1=CC=CC=C1)OCCCN1CCOCC1)C)=O | C33H37NO5S
